US07553854B2
Preparation of 4-(2-((1R,2R)-2-hydroxycyclohexylamino)-1-oxo-benzo[d]thiazol-6-yloxy)-N-methylpicolinamide
A solution of OXONE® (KHSO5, 380 mg, mmol) in water (4 ml) was added dropwise to a solution of 4-(2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide (25 mg, mmol) in methanol (4 ml) at rt. After stirring for 23 hours the suspension is diluted with water (50 ml) and extracted with ethyl acetate (2×10 ml). The combined organic layers were washed with brine, concentrated, and purified by prep HPLC to yield the title compound as white solid. Yield: 2.4 mg. ES/MS m/z 415.1 (MH+), Rt=1.81 min.

reactant | OXONE | OOS(=O)[O-].[K+]
reactant | 4-(2-((1R,2R)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide | 25 mg | O[C@H]1[C@@H](CCCC1)NC=1SC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)NC | C20H22N4O3S
solvent | water | 4 ml | O | H2O
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 4-(2-((1R,2R)-2-hydroxycyclohexylamino)-1-oxo-benzo[d]thiazol-6-yloxy)-N-methylpicolinamide | O[C@H]1[C@@H](CCCC1)NC=1S(C2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)NC)=O | C20H22N4O4S
